US08580762B2
Step 3: 9-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(oxetan-3-yl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydrofuro[3,4-d][1,3]-dioxol-4-yl)-9H-purin-6-amine
N-(2-amino-5-(oxetan-3-yl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide (0.446 g, 0.752 mmol) was taken up in acetic acid (7.7 mL, 140 mmol) and heated at 65° C. for 3.5 h; HPLC/LC MS indicated complete conversion. At 3.75 h the acetic acid was removed by distillation with minimal warming to afford an orange oil, which was taken up in CH2Cl2 (45 mL) and washed with saturated aqueous NaHCO3 (2×30 mL). The aqueous layer was treated with NaCl until saturated and extracted with CH2Cl2 (2×20 mL). The combined organic layers were dried (Na2SO4) and concentrated in vacuo to afford a light orange oil. Purification by column chromatography (2×8 cm silica; 0-5% 7 N methanolic NH3/CH2Cl2) afforded the title compound (0.28 g, 65%) as a light orange foam:

reactant | N-(2-amino-5-(oxetan-3-yl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 0.752 mmol, 0.446 g | NC1=C(C=C(C=C1)C1COC1)NC(CCC1CC(C1)N(C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)N)=O | C30H40N8O5
reactant | acetic acid | 140 mmol, 7.7 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | 9-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(oxetan-3-yl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydrofuro[3,4-d][1,3]-dioxol-4-yl)-9H-purin-6-amine | 0.28 g, 65% | CC1(O[C@@H]2[C@H](O1)[C@H](O[C@H]2N2C1=NC=NC(=C1N=C2)N)CN(C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C1COC1)C)C | C30H38N8O4
